US07304081B2
Step 2. 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-one
To a solutin of 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-ol (2.70 g, 0.0102 mol) in acetone (50 mL, 0.7 mol) was added Jone's oxidant in water (8.00M, 1.90 mL) at 0° C. The solution was stirred at rt for 1 hour and then filetered, concentrated. The residue was dissolved in AcOEt, and the solution was washed with water and brine successively, dried over MgSO4, and concentrated. The crude product was purified using Combiflash eluting with 50% AcOEt in hexanes.

reactant | 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-ol | 0.0102 mol, 2.70 g | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1CC(CC1)O | C14H16ClNO2
reactant | acetone | 0.7 mol, 50 mL | CC(=O)C | C3H6O
solvent | water | 8.00M, 1.90 mL | O | H2O
product | 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-one | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1CC(CC1)=O | C14H14ClNO2
